Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CCO[C:1](=[O:2])[CH2:3][N:4]([c:5]1[cH:6][cH:7][cH:8][c:9]2[cH:10][c:11]([C:12]3=[N:13][CH2:14][CH:15]([CH2:16][N:17]4[CH2:18][CH2:19][O:20][CH2:21][CH2:22]4)[S:23]3)[nH:24][c:25]12)[S:26](=[O:27])(=[O:28])[c:29]1[cH:30][cH:31][cH:32][s:33]1>>[CH2:1]([OH:2])[CH2:3][N:4]([c:5]1[cH:6][cH:7][cH:8][c:9]2[cH:10][c:11]([C:12]3=[N:13][CH2:14][CH:15]([CH2:16][N:17]4[CH2:18][CH2:19][O:20][CH2:21][CH2:22]4)[S:23]3)[nH:24][c:25]12)[S:26](=[O:27])(=[O:28])[c:29]1[cH:30][cH:31][cH:32][s:33]1,CC[O:101][C:1](=[O:2])[CH2:3][N:4]([c:5]1[cH:6][cH:7][cH:8][c:9]2[cH:10][c:11]([C:12]3=[N:13][CH2:14][CH:15]([CH2:16][N:17]4[CH2:18][CH2:19][O:20][CH2:21][CH2:22]4)[S:23]3)[nH:24][c:25]12)[S:26](=[O:27])(=[O:28])[c:29]1[cH:30][cH:31][cH:32][s:33]1.[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[CH2:3][N:4]([c:5]1[cH:6][cH:7][cH:8][c:9]2[cH:10][c:11]([C:12]3=[N:13][CH2:14][CH:15]([CH2:16][N:17]4[CH2:18][CH2:19][O:20][CH2:21][CH2:22]4)[S:23]3)[nH:24][c:25]12)[S:26](=[O:27])(=[O:28])[c:29]1[cH:30][cH:31][cH:32][s:33]1,ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[O:2]=[C:1](OC(=O)C(F)(F)F)[C:3]([F:4])([F:5])[F:6].[OH:7][CH2:8][C@@H:9]1[CH2:10][CH2:11][NH:12][CH2:13][C@H:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[N:12]1[CH2:11][CH2:10][C@@H:9]([CH2:8][OH:7])[C@H:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:13]1,[OH:7][CH2:8][C@@H:9]1[CH2:10][CH2:11][NH:12][CH2:13][C@H:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.O=C([O:101][C:1](=[O:2])[C:3]([F:4])([F:5])[F:6])C(F)(F)F>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[N:12]1[CH2:11][CH2:10][C@@H:9]([CH2:8][OH:7])[C@H:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:13]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(12, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH3:1].[CH3:2][C:3]([CH3:4])([OH:5])[CH2:6][CH2:7][N:8]([CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[CH2:16][c:17]1[cH:22][cH:21][cH:20][cH:19][cH:18]1>>[CH3:1][O:5][C:3]([CH3:2])([CH3:4])[CH2:6][CH2:7][N:8]([CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,[CH3:2][C:3]([CH3:4])([OH:5])[CH2:6][CH2:7][N:8]([CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[I:101][CH3:1].[H-:301].[Na+]>>[CH3:1][O:5][C:3]([CH3:2])([CH3:4])[CH2:6][CH2:7][N:8]([CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,SN2_alcohol(thiol),"[(301, 5.1), ([5.1, 5], 5), (5, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([Cl:8])[cH:9]1.[OH:10][CH2:11][c:12]1[s:13][c:14](-[c:15]2[cH:16][cH:17][c:18]([C:19]([F:20])([F:21])[F:22])[n:23][cH:24]2)[n:25][c:26]1[CH2:27][CH2:28][CH2:29][O:30][CH2:31][c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1>>[c:1]1([O:10][CH2:11][c:12]2[s:13][c:14](-[c:15]3[cH:16][cH:17][c:18]([C:19]([F:20])([F:21])[F:22])[n:23][cH:24]3)[n:25][c:26]2[CH2:27][CH2:28][CH2:29][O:30][CH2:31][c:32]2[cH:33][cH:34][cH:35][cH:36][cH:37]2)[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([Cl:8])[cH:9]1,[OH:10][CH2:11][c:12]1[s:13][c:14](-[c:15]2[cH:16][cH:17][c:18]([C:19]([F:20])([F:21])[F:22])[n:23][cH:24]2)[n:25][c:26]1[CH2:27][CH2:28][CH2:29][O:30][CH2:31][c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1.[F:101][c:1]1[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([Cl:8])[cH:9]1.[H-:301].[Na+]>>[c:1]1([O:10][CH2:11][c:12]2[s:13][c:14](-[c:15]3[cH:16][cH:17][c:18]([C:19]([F:20])([F:21])[F:22])[n:23][cH:24]3)[n:25][c:26]2[CH2:27][CH2:28][CH2:29][O:30][CH2:31][c:32]2[cH:33][cH:34][cH:35][cH:36][cH:37]2)[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([Cl:8])[cH:9]1,SNAr_alco(thi)ol(para),"[(301, 10.1), ([10.1, 10], 10), (10, 1), ([1, 9], [9, 7]), ([7, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 7]), ([7, 9], [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
